US04268675
b. Formation of 5-[1-(3,5-dichlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer
A 500 milliliter, 3-neck flask equipped with a magnetic stirrer, thermometer, dry ice condenser/drying tube and inlet from a phosgene (COCl2) tank via a calibrated rotameter was charged with 50 milliliters of ethyl acetate saturated with phosgene at 20° C. (approximately 0.5 mole of phosgene). An additional 50 milliliters of ethylacetate was added, and 7.9 grams of 5-[1-(3,5-dichorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole, (prepared above) in 30 milliliters of ethyl acetate was added. The resulting solution was stirred for 64 hours, and then purged with nitrogen until no COCl2 was detected. The solution was filtered and then topped at 70° C. in a roto-vac to form 10.0 grams of a viscous yellow oil of 5-[1-(3,5-dichlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | approximately 0.5 mole | C(=O)(Cl)Cl | CCl2O
reactant | 5-[1-(3,5-dichorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole | 7.9 grams | ClC=1C=C(OC(C)C2=NN=C(S2)N)C=C(C1)Cl | C10H9Cl2N3OS
solvent | ethyl acetate | 30 milliliters | C(C)(=O)OCC | C4H8O2
solvent | ethylacetate | 50 milliliters | C(C)OC(C)=O | C4H8O2
solvent | ethyl acetate | 50 milliliters | C(C)(=O)OCC | C4H8O2
product | 5-[1-(3,5-dichlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate | 10.0 grams | ClC=1C=C(OC(C)C2=NN=C(S2)N=C=O)C=C(C1)Cl | C11H7Cl2N3O2S
